US08871767B2
6-chloro-2-(4-ethyl-3-nitrophenyl)imidazo[1,2-b]pyridazine
A solution of 6-chloropyridazin-3-amine (4.76 g, 0.037 mol) and 2-bromo-1-(4-ethyl-3-nitrophenyl)ethanone (10.0 g, 0.037 mol) in acetonitrile (100 mL) is heated at reflux for 18 hr. The reaction mixture is diluted with water (500 mL), stirred at room temperature for 1 hour and solids are collected by filtration to give the title compound (6.9 g, 62% yield). LCMS m/z=303.3, 305.4 [M+H]+, tR=2.90 min.

reactant | 6-chloropyridazin-3-amine | 0.037 mol, 4.76 g | ClC1=CC=C(N=N1)N | C4H4ClN3
reactant | 2-bromo-1-(4-ethyl-3-nitrophenyl)ethanone | 0.037 mol, 10.0 g | BrCC(=O)C1=CC(=C(C=C1)CC)[N+](=O)[O-] | C10H10BrNO3
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 500 mL | O | H2O
product | 6-chloro-2-(4-ethyl-3-nitrophenyl)imidazo[1,2-b]pyridazine | 6.9 g, 62% yield | ClC=1C=CC=2N(N1)C=C(N2)C2=CC(=C(C=C2)CC)[N+](=O)[O-] | C14H11ClN4O2
